US06221914B1
4,4′-Propanediyldioxy-dibenzonitrile (n=3)
To a solution of 4-cyanophenol (20.0 g; 0.16 mol) in DMF (350 mL) was added powdered potassium carbonate (34.8g; 0.25 mol) under an atmosphere of argon. This mixture was stirred at room temperature for 15 minutes. To the reaction mixture was added 1,3-dibromopropane (8.52 mL; 0.08 mol) via syringe, and the mixture stirred at room temperature for 16 hours. The solvent was removed by high vacuum distillation and the remaining white solid was taken up in 200 mL of EtOAc. HCl (1N in water) was then added and a white precipitate formed. This precipitate was collected by filtration, washed several times with diethyl ether, and then dried under vacuum. A total of 20.2 g of a white solid were obtained (90% yield).

reactant | 4-cyanophenol | 0.16 mol, 20.0 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | potassium carbonate | 0.25 mol, 34.8g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 0.08 mol, 8.52 mL | BrCCCBr | C3H6Br2
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
product | 4,4′-Propanediyldioxy-dibenzonitrile | 20.2 g, 90% yield | C(CCOC1=CC=C(C#N)C=C1)OC1=CC=C(C#N)C=C1 | C17H14N2O2
